US07732604B2
A mixture of DME (3.0 mL) and 1 M aqueous CsF (0.88 mL) was degassed by bubbling in Argon for 10 minutes. The mixture was transferred via syringe to a vial containing 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (100 mg, 0.29 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (95 mg, 0.32 mmol) and Pd(dppf)2Cl2.CH2Cl2 (6.1 mg, 0.01 mmol). The vial was capped and heated to 80° C. for 16 hours. Water (5 mL) was added to the crude reaction mixture and the resulting suspension was filtered. The precipitate was washed with water and air dried. The precipitate was purified by column chromatography using gradient elution with methanol and dichloromethane to afford 6-((6-(1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (60 mg, 62%).

reactant | CsF | 1 M, 0.88 mL | [F-].[Cs+]
reactant | 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 0.29 mmol, 100 mg | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 0.32 mmol, 95 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | CH2Cl2 | 0.01 mmol, 6.1 mg | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Water | 5 mL | O | H2O
solvent | DME | 3.0 mL | COCCOC | C4H10O2
product | 6-((6-(1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 60 mg, 62% | N1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C17H12N8
